US04072696
The resulting 1-acetamido-4-methoxymethoxy-2-nitro-benzene is treated with sodium hydroxide in methanol, warmed briefly on a steam bath for about 15 minutes until the reaction is complete, diluted with water and extracted with dichloromethane to afford 1-amino-4methoxymethoxy-2-nitrobenzene. This latter compound is treated in accordance with the first paragraph of Example VI to afford 1-(3-methoxycarbonyl-2-thioureido)-4-methoxymethoxy-2-nitrobenzene. This latter compound is reduced in accordance with the iron reduction technique as set forth in the third paragraph of Example XIX to afford 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-methoxymethoxybenzene. This latter compound is treated in accordance with the first paragraph of Example XVI to afford 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-4-methoxymethoxybenzene.

reactant | 1-acetamido-4-methoxymethoxy-2-nitro-benzene | C(C)(=O)NC1=C(C=C(C=C1)OCOC)[N+](=O)[O-] | C10H12N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-amino-4methoxymethoxy-2-nitrobenzene | NC1=C(C=C(C=C1)OCOC)[N+](=O)[O-] | C8H10N2O4
